US06355665B1
[4-(1H-Imidazol-4-yl)butyl]phenethyl sulfone
4-[2-(tert-butyldimethylsilyl)-1-(N,N-dimethylsulfamoyl)imidazol-5-yl]butyl phenethyl sulfide. To a suspension of the product from step b (701 mg, 1.71 mmol) and potassium carbonate (283 mg, 2.05 mmol) in N,N-dimethylformamide (3 ml) was added phenethyl mercaptan (229 μl, 1.71 mmol). The reaction was stirred at room temperature for 6 h before the addition of brine (10 ml). The product was extracted with ethyl acetate (2×20 ml) and the combined organic material washed with water (3×20 ml) before drying over magnesium sulfate. Filtration and evaporation of the filtrate furnished the title compound as a pale yellow oil in quantitative yield: 1H NMR (300 MHz, CDCl3) 7.33-7.20 (5H, m), 6.95 (1H, s), 2.98-2.70 (6H, m), 2.78 (6H, s), 2.58 (2H, t), 1.76-1.73 (4H, m), 1.01 (9H, s), 0.39 (6H, s).

reactant | 4-[2-(tert-butyldimethylsilyl)-1-(N,N-dimethylsulfamoyl)imidazol-5-yl]butyl phenethyl sulfide | C(CC1=CC=CC=C1)SCCCCC1=CN=C(N1S(N(C)C)(=O)=O)[Si](C)(C)C(C)(C)C | C23H39N3O2S2Si
reactant | potassium carbonate | 2.05 mmol, 283 mg | C([O-])([O-])=O.[K+].[K+]
reactant | phenethyl mercaptan | 1.71 mmol, 229 μl | C(CC1=CC=CC=C1)S | C8H10S
reactant | brine | 10 ml | [Cl-].[Na+].O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | [4-(1H-Imidazol-4-yl)butyl]phenethyl sulfone | quantitative yield | N1C=NC(=C1)CCCCS(=O)(=O)CCC1=CC=CC=C1 | C15H20N2O2S
